US09290451B2
d) 1,1-Dimethyl-3-morpholin-4-yl-propylamine
3-Amino-3-methyl-1-morpholinobutan-1-one (0.55 g, 2.96 mmol) and borane in THF (1 M, 6 mL, 6 mmol) were mixed together. The mixture was stirred at room temperature overnight, another portion borane in THF (6 mL) was added and the mixture stirred for another day. Methanol (5 mL) was added and the solvent was removed in vacuo. Water (20 mL) was added and the mixture was extracted with ethyl acetate (3×20 mL). The LC-MS showed still product in the water phase which was now extracted with methylene chloride (2×20 mL). The organic phases were combined, dried over anhydrous sodium sulfate and the solvent was removed in vacuo to give the crude product (0.09 g); MS (EI): m/e=173.2 [M+H]+.

reactant | 3-Amino-3-methyl-1-morpholinobutan-1-one | 2.96 mmol, 0.55 g | NC(CC(=O)N1CCOCC1)(C)C | C9H18N2O2
reactant | borane | B | BH3
reactant | Methanol | 5 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mmol, 1 M, 6 mL | C1CCOC1 | C4H8O
product | 1,1-Dimethyl-3-morpholin-4-yl-propylamine | 0.09 g | CC(CCN1CCOCC1)(C)N | C9H20N2O
